US04085118
5-[5-(4-Flurophenyl)-2-furanyl]dihydro-2(3H)-furanone
A mixture of 3.8 g (0.014 mole) of 4-[5-(4-fluorophenyl)-2-furanyl]-4-hydroxybutanoic acid and 60 ml of 10% hydrochloric acid was warmed at 45° for 2 hrs and then cooled in an ice bath. The solid was filtered, washed with water and air-dried to yield 3.3 g (95%). An analytical sample was prepared by dissolving a sample in ethyl acetate (Darco), diluting with hexane and drying the resulting solid in a vacuum pistol at room temperature, m.p. 57°-59°.

reactant | 4-[5-(4-fluorophenyl)-2-furanyl]-4-hydroxybutanoic acid | 0.014 mole, 3.8 g | FC1=CC=C(C=C1)C1=CC=C(O1)C(CCC(=O)O)O | C14H13FO4
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 5-[5-(4-Flurophenyl)-2-furanyl]dihydro-2(3H)-furanone | FC1=CC=C(C=C1)C1=CC=C(O1)C1CCC(O1)=O | C14H11FO3
